US08048897B2
(5) Synthesis of (1R,2R,3S,4S,6R)-4-[1-(4-Ethylbenzyl)-1H-indol-3-yl]-6-(hydroxymethyl)cyclohexane-1,2,3-triol
In a nitrogen stream, dimethylsulfide (0.72 mL) and a boron trifluoride-diethyl ether complex (0.36 mL, 2.8 mmol) were added to a solution of 1-(4-ethylbenzyl)-3-[(1S,2S,3R, 4R,5R)-2,3,4-tris-benzyloxy-5-(benzyloxymethyl)cyclohexyl]-1H-indole (213 mg, 2.28 mmol) in methylene chloride (4.7 mL) under cooling with ice. The mixture solution was stirred at room temperature for 64 hours, and then water was added thereto under cooling with ice and the resulting solution was extracted with methylene chloride. The organic layer was washed with a saturated sodium chloride aqueous solution and dried (anhydrous magnesium sulfate) and then the solvent was distilled under reduced pressure. The obtained residue was purified by silica gel column chromatography [developing solution=methylene chloride:methanol (50:1)] to obtain the title compound (45 mg, 41%).

reactant | dimethylsulfide | 0.72 mL | CSC | C2H6S
reactant | 1-(4-ethylbenzyl)-3-[(1S,2S,3R, 4R,5R)-2,3,4-tris-benzyloxy-5-(benzyloxymethyl)cyclohexyl]-1H-indole | 2.28 mmol, 213 mg | C(C)C1=CC=C(CN2C=C(C3=CC=CC=C23)[C@H]2[C@@H]([C@H]([C@@H]([C@H](C2)COCC2=CC=CC=C2)OCC2=CC=CC=C2)OCC2=CC=CC=C2)OCC2=CC=CC=C2)C=C1 | C52H53NO4
reactant | water | O | H2O
solvent | methylene chloride | 4.7 mL | C(Cl)Cl | CH2Cl2
product | (1R,2R,3S,4S,6R)-4-[1-(4-Ethylbenzyl)-1H-indol-3-yl]-6-(hydroxymethyl)cyclohexane-1,2,3-triol | 45 mg, 41% | C(C)C1=CC=C(CN2C=C(C3=CC=CC=C23)[C@H]2[C@@H]([C@H]([C@@H]([C@H](C2)CO)O)O)O)C=C1 | C24H29NO4
